US06800651B2
N-(4-(3-Methoxybenzyloxy)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
A solution of N-(4-(4-hydroxyphenyl)-N-(ethanesulfonyl) pyrid-3-ylmethylamine (1.0 equiv.) in DMSO (0.15 M) was cooled to 0° C. Sodium hydride (1.1 equiv.; 60% dispersion in oil) was added; after 20 minutes at 0° C. 3-methoxybenzyl bromide (Aldrich; 1.3 equiv.) was added and the reaction warmed to ambient temperature. After stirring overnight the reaction was diluted with ethyl acetate and washed with 0.1 M potassium carbonate, and brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via preparative HPLC eluting with 90:10 to 70:30 DCM/ethyl acetate to give the title compound. Anal Calcd for C22H24N2O4S.0.1H2O: C, 64.06; H, 5.86; N, 6.79. Found: C, 63.78; H, 5.89; N, 6.76. MS found 413.0 [M+H]+.

reactant | 4-(4-hydroxyphenyl)-N-(ethanesulfonyl) pyrid-3-ylmethylamine | 1.0 equiv. | OC1=CC=C(C=C1)C1=C(C=NC=C1)CNS(=O)(=O)CC | C14H16N2O3S
reactant | Sodium hydride | 1.1 equiv. | [H-].[Na+]
reactant | 3-methoxybenzyl bromide | 1.3 equiv. | COC=1C=C(CBr)C=CC1 | C8H9BrO
solvent | DMSO | 0.15 M | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(3-Methoxybenzyloxy)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | COC=1C=C(COC2=CC=C(C=C2)N(S(=O)(=O)CC)CC=2C=NC=CC2)C=CC1 | C22H24N2O4S
